US05385692
Subsequently, 1.01 g (3.11 mM) of 2-hexyl-5-(5-nitropyridine-2-yl)indan, 0.19 g of activated carbon and 0.02 g ferric chloride hexahydrate were mixed and stirred at room temperature. To the mixture, 0.96 ml of 80%-hydrazine hydrate (density: 1.03) was added dropwise, followed by stirring for 40 minutes at 70°-71.5° C. The resultant insoluble matter was removed by filtration and the filtrate was concentrated under reduced pressure, followed by addition of methanol and cooling in a refrigerator to obtain an insoluble matter. The insoluble matter was recovered by filtration to obtain 0.71 g of 2-hexyl-5-(5-aminopyridine-2-yl)indan (Yield: 77.5%).

reactant | 2-hexyl-5-(5-nitropyridine-2-yl)indan | 3.11 mM, 1.01 g | C(CCCCC)C1CC2=CC=C(C=C2C1)C1=NC=C(C=C1)[N+](=O)[O-] | C20H24N2O2
reactant | hydrazine hydrate | O.NN
product | 2-hexyl-5-(5-aminopyridine-2-yl)indan | 0.71 g, Yield: 77.5% | C(CCCCC)C1CC2=CC=C(C=C2C1)C1=NC=C(C=C1)N | C20H26N2
